US08044090B2
N-(2-(5-Methoxy-1H-indol-3-yl)-ethyl)-(3-(3,3,3-trifluoropropoxy)benzyl)amine
Combine 350 mg (1.8 mmol) 5-methoxytryptamine, 401 mg 3-trifluoropropoxybenzaldehyde (1.8 mmol) and 4 g 4A molecular sieves in 35 mL EtOH and reflux overnight. Decant the liquid into a separate flask and treat with 209 mg (5.5 mmol) NaBH4. Stir the reaction at ambient temperature for 1 hour. Concentrate under vacuum, and partition between 50 mL 1 N NaOH and 25 mL dichloromethane. Extract the aqueous layer with 25 ml dichloromethane and combine the organic layers and concentrate to dryness. Purify the resulting oil by radial chromatography (SiO2; 1% MeOH in CHCl3 mixed with conc. NH4OH) to afford 705 mg (1.8 mmol; 100%) of the desired compound as an oil. Conversion to it's HCl salt by stirring a solution of the compound in 50 mL 50/50 THF/EtOH with 1 g polyvinyl pyridine hydrochloride overnight, filtering and concentrating to a solid. Recrystallize the product from EtOAc: Analysis for C21H23F3N2O2.HCl: calcd: C, 58.81; H, 5.64; N, 6.53. found: C, 58.42; H, 5.44; N, 6.51. ISMS 393 (M+1).

reactant | 5-methoxytryptamine | 1.8 mmol, 350 mg | COC1=CC=C2NC=C(CCN)C2=C1 | C11H14N2O
reactant | 3-trifluoropropoxybenzaldehyde | 1.8 mmol, 401 mg | FC(CCOC=1C=C(C=O)C=CC1)(F)F | C10H9F3O2
reactant | NaBH4 | 5.5 mmol, 209 mg | [BH4-].[Na+]
solvent | EtOH | 35 mL | CCO | C2H6O
product | N-(2-(5-Methoxy-1H-indol-3-yl)-ethyl)-(3-(3,3,3-trifluoropropoxy)benzyl)amine | COC=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OCCC(F)(F)F | C21H23F3N2O2
